US07906654B2
2-[4-(1-aminoethyl)-2-methylphenyl]-2-methylpropanenitrile
To a stirred solution of 2-(4-acetyl-2-methylphenyl)-2-methylpropanenitrile (1.77 g, 8.80 mmol) in 7 M ammonia in MeOH (45 mL) is added freshly distilled titanium (IV) isopropoxide (5.20 mL, 17.6 mmol). The reaction mixture is left stirring 18 h at room temperature. After cooling to 0° C., sodium borohydride (500 mg, 13.2 mmol) is added and the reaction mixture stirred at 0° C. until no more gas evolved and then at room temperature 3 h. Water (25 mL) is then added and the titanium oxide removed by filtration on a Buchner funnel. The filtrate is extracted with EtOAc (3×100 mL) (brine (10 mL) is added to help separation between both layers) and the combined organic layers are concentrated under reduced pressure. The resulting crude product (which contained water) is dissolved in Et2O (75 mL), washed with brine, dried over MgSO4 and filtered. 5-6 N HCl in 2-propanol (2.2 mL) is slowly added to the well-stirred filtrate. The resulting white precipitate is filtered on a Buchner funnel and dried in vacuo to provide the expected product 2-[4-(1-aminoethyl)-2-methylphenyl]-2-methylpropanenitrile (1.58 g, 75%) as a white solid. 1H NMR (300 MHz, CD3OD): δ 7.55 (1H, d, J=8.0 Hz), 7.44-7.37 (2H, m), 4.97 (3H, s), 4.52 (1H, q, J=6.9 Hz), 2.75 (3H, s), 1.86 (6H, s), 1.69 (3H, d, J=6.9 Hz).

reactant | 2-(4-acetyl-2-methylphenyl)-2-methylpropanenitrile | 8.80 mmol, 1.77 g | C(C)(=O)C1=CC(=C(C=C1)C(C#N)(C)C)C | C13H15NO
reactant | sodium borohydride | 13.2 mmol, 500 mg | [BH4-].[Na+]
reactant | Water | 25 mL | O | H2O
reactant | ammonia | 7 M | N | H3N
solvent | MeOH | 45 mL | CO | CH4O
catalyst | titanium (IV) isopropoxide | 17.6 mmol, 5.20 mL | CC([O-])C.[Ti+4].CC([O-])C.CC([O-])C.CC([O-])C
product | 2-[4-(1-aminoethyl)-2-methylphenyl]-2-methylpropanenitrile | 1.58 g, 75% | NC(C)C1=CC(=C(C=C1)C(C#N)(C)C)C | C13H18N2
